US08420655B2
In a microwave vial are combined 2-formyl-4-methoxyphenylboronic acid (432 mg, 2.40 mmol), 5-chloro-3-methyl-1,2,4-thiadiazole (270 mg, 2.00 mmol), potassium acetate (390 mg, 4.00 mmol), and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)-dichloropalladium(II) (283 mg, 0.40 mmol) in 1,4-dioxane (6 mL) and water (0.50 mL). The reaction vial is sealed and stirred at 100° C. for 20 hours. The reaction mixture is cooled to ambient temperature and poured into water and extracted with EtOAc (3×). The combined organics are dried (MgSO4), filtered and concentrated. Purification via flash chromatography (12 g silica gel, 5-40% EtOAc/heptane) affords 5-methoxy-2-(3-methyl-1,2,4-thiadiazol-5-yl)-benzaldehyde which is used without further purification.

reactant | 2-formyl-4-methoxyphenylboronic acid | 2.40 mmol, 432 mg | C(=O)C1=C(C=CC(=C1)OC)B(O)O | C8H9BO4
reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 2.00 mmol, 270 mg | ClC1=NC(=NS1)C | C3H3ClN2S
reactant | potassium acetate | 4.00 mmol, 390 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.50 mL | O | H2O
product | 5-methoxy-2-(3-methyl-1,2,4-thiadiazol-5-yl)-benzaldehyde | COC=1C=CC(=C(C=O)C1)C1=NC(=NS1)C | C11H10N2O2S
